US08022062B2
4-(1,3,3-Trimethyl-butyl)-benzylamine:
Add 4N hydrogen chloride in dioxane (10 mL) to a stirred solution of N-(tert-butoxycarbonyl)-4-(1,3,3-trimethyl-butyl)-benzylamine (225 mg, 0.74 mmol) in EtOAc (15 mL) and stir the mixture at ambient temperature overnight. Concentrate in vacuo and wash the solid with diethyl ether. Suspend the solid in dichloromethane and saturated aqueous NaHCO3 and stir until both phases are clear (15 min). Extract the aqueous phase twice with dichloromethane. Dry the combined organic extracts over MgSO4, filter and concentrate in vacuo to give the title compound as an oil (0.136 g, 90%) that was used without any further purification. MS (ES+) m/z: 206 (M+H)+.

reactant | hydrogen chloride | 4N | Cl | ClH
reactant | N-(tert-butoxycarbonyl)-4-(1,3,3-trimethyl-butyl)-benzylamine | 0.74 mmol, 225 mg | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C(CC(C)(C)C)C | C19H31NO2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 4-(1,3,3-Trimethyl-butyl)-benzylamine | 0.136 g, 90% | CC(CC(C)(C)C)C1=CC=C(CN)C=C1 | C14H23N
